US07605171B2
Step A: Methyl 3-chloro-4-isopropyloxybenzoate
A solution of 1.42 g (7.63 mmol) of methyl 3-chloro-4-hydroxybenzoate, 585 μL (7.63 mmol) of 2-propanol and 3.0 g (11.45 mmol) of triphenylphosphine in 20 mL of THF at 0° C. was treated with 2.25 mL (11.45 mmol) of diisopropyl azodicarboxylate. The mixture was stirred for 16 h at rt, then concentrated. Chromatography on a Biotage 40M cartridge using 19:1 v/v hexanes/EtOAc as the eluant afforded 1.77 g of the title compound: 1H NMR (500 MHz, CDCl3) δ 1.41 (d, J=6.2, 6H), 4.63-4.70 (m, 1H), 6.93 (d, J=8.7, 1H), 7.89 (dd, J=2.2, 8.6, 1H), 8.05 (d, J=2.0, 1H).

reactant | methyl 3-chloro-4-hydroxybenzoate | 7.63 mmol, 1.42 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | 2-propanol | 7.63 mmol, 585 μL | CC(C)O | C3H8O
reactant | triphenylphosphine | 11.45 mmol, 3.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 11.45 mmol, 2.25 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Methyl 3-chloro-4-isopropyloxybenzoate | 1.77 g | ClC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13ClO3
